US04714492
5.3 g (0.014 mol) of ethyl 6-(4-bromophenyl)-1,2-dimethyl-4-oxonicotinate hydrochloride is suspended in 100 ml of water and to it there is added 5 g (0.0625 mol) of 50% aqueous sodium hydroxide. The mixture is refluxed and stirred for 1 hr. and the solution formed is cooled to room temperature. The solution is extracted with methylenedichloride and the aqueous solution is acidified to pH 1 with 12N hydrochloric acid. The suspension formed is vacuum filtered and the filter cake is washed with water and dried to afford 4 g (89% yield) of 6-(4-bromophenyl)-1,2-dimethyl-4-oxonicotinic acid, mp 269°-271° C. dec.

reactant | ethyl 6-(4-bromophenyl)-1,2-dimethyl-4-oxonicotinate hydrochloride | 0.014 mol, 5.3 g | Cl.BrC1=CC=C(C=C1)C=1N(C(=C(C(=O)OCC)C(C1)=O)C)C
reactant | sodium hydroxide | 0.0625 mol, 5 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 6-(4-bromophenyl)-1,2-dimethyl-4-oxonicotinic acid | 4 g, 89% yield | BrC1=CC=C(C=C1)C=1N(C(=C(C(=O)O)C(C1)=O)C)C | C14H12BrNO3
